US04297270
(a) Preparation of the rosin-phenol compound
After having added 0.4 part of zinc chloride, 302 parts of colophony are slowly heated to 100° C. together with 128 parts of 4-chlorophenol, while passing nitrogen through the mixture, and said temperature is maintained for 2 hours. Subsequently the temperature is increased to 200° to 210° C., until after about 1 hour the reaction product is free from halogen. After cooling there is obtained a clear rosin having a softening point of about 105° C.

reactant | colophony | C1=CC=C(C=C1)/C=C/CO[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C15H20O6
reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | rosin phenol | C1=CC=C(C=C1)/C=C/CO[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O.C1(=CC=CC=C1)O | InChI=1S/C15H20O6.C6H6O/c16-9-11-12(17)13(18)14(19)15(21-11)20-8-4-7-10-5-2-1-3-6-10;7-6-4-2-1-3-5-6/h1-7,11-19H,8-9H2;1-5,7H/b7-4+;/t11-,12-,13+,14-,15-;/m1./s1
